US08034256B2
Under an argon gas atmosphere, a mixture of 15.3 g (42.6 mmol) of 2-(4-bromophenyl)-6-phenylnaphthalene and 200 mL of dehydrated THF was cooled down to −60 degrees C., and added with 32.8 mL (51.1 mmol) of hexane solution of 1.56M n-butyllithium in drops while being stirred. Then, the reaction mixture was stirred for two hours at −60 degrees C. 24.0 g (128 mol) of triisopropyl borate was dropped into the reaction solution at −60 degrees C. Subsequently, the reaction mixture was warmed up to room temperature, and stirred for 17 hours. The reaction mixture was cooled down to 0 degree C. to be further added with solution of hydrochloric acid, and then stirred for one hour at room temperature. After the reaction, the reaction mixture was further added with toluene, so that aqueous phase thereof was eliminated. After organic phase thereof was dried with magnesium sulfate, the solvent was distilled away under reduced pressure. By recrystallizing residue by toluene and hexane, 8.7 g of 4-(6-phenylnaphthalene-2-yl) phenylboronic acid was obtained at an yield of 63%.

reactant | 2-(4-bromophenyl)-6-phenylnaphthalene | 42.6 mmol, 15.3 g | BrC1=CC=C(C=C1)C1=CC2=CC=C(C=C2C=C1)C1=CC=CC=C1 | C22H15Br
reactant | hexane | 51.1 mmol, 32.8 mL | CCCCCC | C6H14
reactant | n-butyllithium | 1.56M | C(CCC)[Li]
reactant | triisopropyl borate | 128 mol, 24.0 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 4-(6-phenylnaphthalene-2-yl) phenylboronic acid | 8.7 g, yield of 63% | C1(=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C1=CC=C(C=C1)B(O)O | C22H17BO2
